US05648494
1-[2-Chloro-4-(3-chlorophenoxy)phenoxy]-2-(N-ethyl-N-acetylaminocarbonyloxy)ethane (Compound 1.80.6)
4.7 g of acetyl chloride are added dropwise at 10°-20° C. to a mixture of 5.55 g of 1-[2-chloro-4-(3-chlorophenoxy)phenoxy]-2-ethylaminocarbonyloxyethane, 3.6 g of pyridine, 0.15 g of dimethylaminopyridine and 60 ml of toluene. The mixture is then stirred for 50 hours at reflux temperature. The batch is poured into 300 ml of ice-water and is extracted three times using diethyl ether. The combined ether phases are washed using 1N hydrochloric acid and three times using water, dried over sodium sulfate and the solvent is evaporated in vacuo. The crude product is purified on silica gel using diethyl ether/n-hexane (2:7) as mobile phase. This gives the title compound of refractive index nD20 1.5640.

reactant | acetyl chloride | 4.7 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-[2-chloro-4-(3-chlorophenoxy)phenoxy]-2-ethylaminocarbonyloxyethane | 5.55 g | ClC1=C(OCCOC(=O)NCC)C=CC(=C1)OC1=CC(=CC=C1)Cl | C17H17Cl2NO4
reactant | pyridine | 3.6 g | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 0.15 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-Chloro-4-(3-chlorophenoxy)phenoxy]-2-(N-ethyl-N-acetylaminocarbonyloxy)ethane | ClC1=C(OCCOC(=O)N(C(C)=O)CC)C=CC(=C1)OC1=CC(=CC=C1)Cl | C19H19Cl2NO5
